US05877191
Step D: 1-(tert-Butoxycarbonyl)-4-(3-bromo-4-methoxyphenyl)-3-methylpyrazole
A solution of 4-(3-bromo-4-methoxyphenyl)-3-methylpyrazole (72 mg, 0.27 mmol) in 0.5 mL of dry tetrahydrofuran was stirred at room temperature and di-tert-butyldicarbonate (98 mg, 0.45 mmol) was added followed by triethylamine (0.085 mL, 62 mg, 0.61 mmol). After 0.5 h, 4-(dimethylamino)pyridine (10 mg, 0.082 mmol) was added, and the solution was stirred 1 h longer. The solution was diluted with 30 mL of ethyl acetate and washed with 5 mL each of 2N aqueous HCl, saturated aqueous sodium bicarbonate, and saturated aqueous sodium chloride. The organic layer was dried (sodium sulfate), decanted, and evaporated. The residue was purified by flash column chromatography on 5 g of silica gel eluting with 15% ethyl acetate in hexane to give 92 mg of a colorless film. 1H NMR (400 MHz, CDCl3): δ 8.01 (s, 1H), 7.57 (d, 1H, J=2 Hz), 7.29 (dd, 1H, J=8, 2 Hz), 6.92 (d, 1H, J=8 Hz), 3.91 (s, 3H), 2.40 (s, 3H), 1.64 (s, 9H).

reactant | 4-(3-bromo-4-methoxyphenyl)-3-methylpyrazole | 0.27 mmol, 72 mg | BrC=1C=C(C=CC1OC)C=1C(=NNC1)C | C11H11BrN2O
reactant | di-tert-butyldicarbonate | 0.45 mmol, 98 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 0.61 mmol, 0.085 mL, 62 mg | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 0.5 mL | O1CCCC1 | C4H8O
catalyst | 4-(dimethylamino)pyridine | 0.082 mmol, 10 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | 1-(tert-Butoxycarbonyl)-4-(3-bromo-4-methoxyphenyl)-3-methylpyrazole | C(C)(C)(C)OC(=O)N1N=C(C(=C1)C1=CC(=C(C=C1)OC)Br)C | C16H19BrN2O3
